US05723461
N-(5-Fluoro-2-nitrophenyl)-S-methyl-L-cysteine
16.2 g of (-)-S-Methyl-L-cysteine (0.1 mol) are suspended in a mixture of 120 ml of water and 120 ml of acetone in a four-necked flask under N2. 30.4 ml (22.2 g) of triethylamine (0.22 mol) are added rapidly while stirring. 15.9 g of 2,4-difluoronitrobenzene (0.1 mol) are added, with further stirring, to the resulting yellow solution. The mixture is heated to reflux for 7.5 hours while stirring (orange-colored solution) and the acetone is then stripped off under reduced pressure on a rotary evaporator; the aqueous residue is transferred to a separating funnel and extracted 2× with approximately 50 ml of methyl tert-butyl ether (MTB ether). This extract is composed, in the main, of 2,4-difluoronitrobenzene and is discarded. The aqueous phase is transferred to a four-necked flask and 150 ml of MTB ether are added to it, after which the mixture is adjusted, while being cooled (<25° C.), to pH 1 with approximately 25 ml of 38% sulfuric acid. The mixture is then stirred thoroughly until clear phases are formed. The ether phase is separated off and the aqueous phase is extracted once again with 50 ml of MTB ether. The extracts are dried over sodium sulfate and evaporated on a rotary evaporator. The yield comprises 27 g of a yellow oil which soon solidifies. M.p. 147° (from water/methanol).

reactant | (-)-S-Methyl-L-cysteine | 0.1 mol, 16.2 g | CSC[C@H](N)C(=O)O | C4H9NO2S
reactant | triethylamine | 0.22 mol, 30.4 ml, 22.2 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoronitrobenzene | 0.1 mol, 15.9 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | water | 120 ml | O | H2O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | N-(5-Fluoro-2-nitrophenyl)-S-methyl-L-cysteine | FC=1C=CC(=C(C1)N[C@@H](CSC)C(=O)O)[N+](=O)[O-] | C10H11FN2O4S
